US05011947
4-Cyclopropyl-5,5-bis(4-fluorophenyl)-2,4-pentadienal
Butyl lithium (2.9 mL of 1M solution, 6 mmol) was added to a solution of N-isopropylcyclohexylamine (0.85 g, 6 mmol) in 10 mL of tetrahydrofuran at -20° C. After stirring for 30 minutes and further cooling to -50° C., N-ethylidenecyclohexanamine (3 mL of 2M solution, 6 mmol) was added. After stirring for an additional 30 minutes and continued cooling to -70° C., 2-cyclopropyl-3,3-bis(4-fluorophenyl)-2-propenal (0.85 g, 2 mmol) was added. The mixture was stirred for 4 hours at -70° C. and quenched with saturated ammonium chloride. The mixture was extracted with diethyl ether. The diethyl ether was dried with magnesium sulfate and concentrated in vacuo. The residue was stirred for 16 hours with a mixture of 50 mL of benzene, 15 mL of acetic acid and 35 mL of water. The mixture was diluted to 250 mL with water and extracted with diethyl ether. The extracts were washed with saturated sodium bicarbonate solution, dried over magnesium sulfate and concentrated in vacuo. The residue was crystallized from hexane to give 0.38 g of the title compound; m.p. =139°-140° C.

reactant | Butyl lithium | 6 mmol, 1M, 2.9 mL | C(CCC)[Li]
reactant | N-isopropylcyclohexylamine | 6 mmol, 0.85 g | C(C)(C)NC1CCCCC1 | C9H19N
reactant | N-ethylidenecyclohexanamine | 6 mmol, 2M, 3 mL | C(C)=NC1CCCCC1 | C8H15N
reactant | 2-cyclopropyl-3,3-bis(4-fluorophenyl)-2-propenal | 2 mmol, 0.85 g | C1(CC1)C(C=O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C18H14F2O
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-Cyclopropyl-5,5-bis(4-fluorophenyl)-2,4-pentadienal | 0.38 g | C1(CC1)C(C=CC=O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C20H16F2O
